US06638646B2
c) Synthesis of 2-bromo-5-fluoro-p-xylene
373 g of 2-amino-5-bromo-p-xylene were suspended in 1860 ml of H2O in a 4 l four-necked flask, the mixture was cooled to 3° C. (internal temperature), and 612 ml of tetrafluoroboric acid were added. 154 g of NaNO2 in 300 ml of water were then added dropwise over the course of 60 minutes. After 60 minutes, the solid was filtered off with suction and washed with a little cold 5% tetrafluoroboric acid, then with a little cold methanol and finally with a little cold diethyl ether. The yellow solid (497 g=90%) was dried overnight in an oil-pump vacuum.

reactant | 2-amino-5-bromo-p-xylene | 373 g | NC1=C(C=C(C(=C1)C)Br)C | C8H10BrN
reactant | tetrafluoroboric acid | 612 ml | F[B-](F)(F)F.[H+]
reactant | NaNO2 | 154 g | N(=O)[O-].[Na+]
solvent | H2O | 1860 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 2-bromo-5-fluoro-p-xylene | BrC1=C(C=C(C(=C1)C)F)C | C8H8BrF
